US04533688
(a) 4-Butylamino-2,2,6,6-tetramethylpiperidine
2.0 g of platinum oxide were added to a solution of 155 g of 2,2,6,6-tetramethyl-4-piperidone and 80 g of butylamine in 300 ml of methanol. The resulting mixture was then hydrogenated under a hydrogen atmosphere in a Parr hydrogenation apparatus at room temperature for 5 hours. After completion of the reaction, the platinum catalyst was filtered off and the solvent was distilled from the filtrate under reduced pressure. The residue was purified by vacuum distillation, to give the desired product as an oil, boiling at 100°-101° C./5 mmHg (667 Pascals).

reactant | 2,2,6,6-tetramethyl-4-piperidone | 155 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | butylamine | 80 g | C(CCC)N | C4H11N
solvent | methanol | 300 ml | CO | CH4O
catalyst | platinum oxide | 2.0 g | [Pt]=O
product | 4-Butylamino-2,2,6,6-tetramethylpiperidine | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
